US04988723
60% Dispersion of sodium hydride (0.40 g) in mineral oil was added in small portion at ambient temperature to a solution of 2-cyanoimino-1-ethylimidazolidine (1.38 g) in dimethyl sulfoxide (15 ml). The reaction mixture was stirred for 30 minutes at the same temperature, and 3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (1.01 g) was added thereto. The reaction mixture was stirred overnight at the same temperature, heated for 1.5 hours at 40° C., and then poured into ice-water (50 ml). The forming precipitate was collected by filtration, and washed with water. The product was recrystallized from ethanol to give 4-(2-cyanoimino-3-ethylimidazolidin-1-yl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.36 g).

reactant | sodium hydride | 0.40 g | [H-].[Na+]
reactant | 2-cyanoimino-1-ethylimidazolidine | 1.38 g | C(#N)N=C1N(CCN1)CC | C6H10N4
reactant | 3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 1.01 g | O1C2C(OC3=C(C21)C=C(C=C3)C#N)(C)C | C12H11NO2
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-(2-cyanoimino-3-ethylimidazolidin-1-yl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.36 g | C(#N)N=C1N(CCN1CC)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C18H19N5O
